US07037938B2
To a solution of [4-[2-[N-benzyl-N-[(2R)-2-[[tert-butyl (dimethyl) silyl]oxy]-2-(3-chlorophenyl) ethyl]amino]-ethyl]phenyl][4-[[tert-butyl(dimethyl)silyl]oxy]phenyl]-methanol (1.1 g) in tetrahydrofuran (15 ml) was added 1M tetrabutylammonium fluoride in tetrahydrofuran (5.0 ml) at 0° C., and the mixture was stirred at room temperature for 24 hours under nitrogen. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give 4-[[4-[2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-phenyl](hydroxy)methyl]phenol (550 mg).

reactant | [4-[2-[N-benzyl-N-[(2R)-2-[[tert-butyl (dimethyl) silyl]oxy]-2-(3-chlorophenyl) ethyl]amino]-ethyl]phenyl][4-[[tert-butyl(dimethyl)silyl]oxy]phenyl]-methanol | 1.1 g | C(C1=CC=CC=C1)N(C[C@@H](C1=CC(=CC=C1)Cl)O[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C42H58ClNO3Si2
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 4-[[4-[2-[N-benzyl-N-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-phenyl](hydroxy)methyl]phenol | 550 mg | C(C1=CC=CC=C1)N(C[C@H](O)C1=CC(=CC=C1)Cl)CCC1=CC=C(C=C1)C(C1=CC=C(C=C1)O)O | C30H30ClNO3
